US07071201B2
A solution of 1-{1-[2-(4-fluorophenyl)-2-hydroxyethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline (250 mg) in methylene chloride (5 ml) was cooled to −78° C. and diethylaminosulfur trifluoride (DAST, 0.1 ml) was added thereto. Then the reaction solution was stirred at the same temperature for 45 min. After the completion of the reaction, saturated sodium bicarbonate was added to the reaction solution, which was then allowed to warm to room temperature under stirring. The reaction solution was extracted with ethyl acetate and the organic layer was dried over magnesium sulfate. After evaporating the solvent, the resulting residue was purified by silica gel column chromatography (hexane/hexane system) to give 1-{1-[2-(4-fluorophenyl)-2-fluoroethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline as an oil. This product was dissolved in ethyl acetate. After adding hydrochloric acid, the resulting salt was recrystallized from ethanol/ether to give the title compound (60 mg) (yield: 24%).

reactant | 1-{1-[2-(4-fluorophenyl)-2-hydroxyethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline | 250 mg | FC1=CC=C(C=C1)C(CN1CCC(CC1)N1CCCC2=CC=C(C=C12)OC)O | C23H29FN2O2
reactant | diethylaminosulfur trifluoride | 0.1 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-{1-[2-(4-fluorophenyl)-2-fluoroethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline | FC1=CC=C(C=C1)C(CN1CCC(CC1)N1CCCC2=CC=C(C=C12)OC)F | C23H28F2N2O
